US04150035
preparation of cis and trans-5,6,7,8-tetrahydro-8-hydroxy-4H-cyclohepta[b]thien-4-ylurea
A sample of 1.72 g. of 5,6,7,8-tetrahydro-8-oxo-4H-cyclohepta[b]thien-4-ylurea is stirred in 120 ml. of absolute ethanol and 0.5 g. of sodium borohydride is added. After 5.5 hours, 50 ml. of water is added to the mixture and the mixture is evaporated to dryness in vacuo. Acetone is added to the residue and the mixture is evaporated to dryness. The residue is then extracted with 3×75 ml. portions of boiling acetone, the acetone solution being decanted each time. The combined acetone solutions are filtered and evaporated to dryness. The residue is then washed with diethyl ether and the insoluble solid (contains some gum) is crystallized from methanol/ethyl acetate to afford 0.148 g. of yellow solid. The mother liquor is evaporated to dryness and chromatographed on preparative thin-layer silica-gel chromatographic plates with 15 parts methanol/85 parts chloroform. A fraction melting at 171°-175° C. is then obtained after separation and recrystallization from methanol/ethyl acetate. This material analyzes acceptably (carbon, hydrogen and nitrogen) for the title compound and the infrared spectrum also supports the structure. A second fraction melting at 169°-172° C. is also obtained and its infrared spectrum is virtually identical with that of the above-mentioned fraction.

reactant | 5,6,7,8-tetrahydro-8-oxo-4H-cyclohepta[b]thien-4-ylurea | O=C1CCCC(C2=C1SC=C2)NC(=O)N | C10H12N2O2S
reactant | ethanol | C(C)O | C2H6O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | water | O | H2O
product | trans-5,6,7,8-tetrahydro-8-hydroxy-4H-cyclohepta[b]thien-4-ylurea | O[C@@H]1CCC[C@H](C2=C1SC=C2)NC(=O)N | C10H14N2O2S
